US08217069B2
2,3-Difluoro-6-methoxybenzyl Chloride
To a solution of 2,3-difluoro-6-methoxybenzyl alcohol (6.97 g) in toluene (100 mL) was added thionyl chloride (4.4 mL) in a dropwise manner at room temperature, and the mixture was stirred at room temperature for 1 hour. The reaction mixture was poured into water, and the resulting mixture was extracted with ethyl acetate. The extract was washed with water and brine twice, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure to give the title compound (7.65 g).

reactant | 2,3-difluoro-6-methoxybenzyl alcohol | 6.97 g | FC1=C(CO)C(=CC=C1F)OC | C8H8F2O2
reactant | thionyl chloride | 4.4 mL | S(=O)(Cl)Cl | Cl2OS
reactant | water | O | H2O
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 2,3-Difluoro-6-methoxybenzyl Chloride | 7.65 g | FC1=C(CCl)C(=CC=C1F)OC | C8H7ClF2O
